US04874792
2-Dodecylbenzoyl chloride was prepared from 2dodecylbenzoic acid (4.06 g, 14 mmoles) and excess thionyl chloride in methylene chloride at 23° C. for 1 hour. Following evaporation of the solvent, the acid chloride was used without purification. A solution of this acid chloride in tetrahydrofuran (15 ml) was added to the cold solution of dianion prepared above, followed by an additional amount of 2.12M n-butyl lithium (6.6 ml). The solution was warmed to -20° C., stirred for 1 hour and poured into cold 1N hydrochloric acid. The mixture was extracted with diethyl ether. The extracts were washed with water, dried and evaporated. The crude product was recrystallized from acetonitrile.

reactant | 2dodecylbenzoic acid | 14 mmoles, 4.06 g | C(CCCCCCCCCCC)C1=C(C(=O)O)C=CC=C1 | C19H30O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | n-butyl lithium | 2.12M, 6.6 ml | C(CCC)[Li]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-Dodecylbenzoyl chloride | C(CCCCCCCCCCC)C1=C(C(=O)Cl)C=CC=C1 | C19H29ClO
